US07358376B2
b) 2-Acetylamino-3-cyanothiophene
2-Amino-3-cyanothiophene (12 g) was heated at reflux in acetic anhydride (34 ml) for 15 minutes, cooled and refrigerated for 3 h. The crystalline product was filtered off (13.6 g).

reactant | 2-Amino-3-cyanothiophene | 12 g | NC=1SC=CC1C#N | C5H4N2S
reactant | acetic anhydride | 34 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-Acetylamino-3-cyanothiophene | C(C)(=O)NC=1SC=CC1C#N | C7H6N2OS
